US07196085B2
O-Benzotriazol-1-yl-N,N,N′N′-tetramethyluronium tetrafluoroborate (0.139 g, 0.429 mmol) and diisopropylethylamine (0.095 g, 0.726 mmol) were added sequentially at ambient temperature to a stirred solution of the above mixture of N-[3-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]-2-phenylsuccinamic acid and N-[3-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]-3-phenylsuccinamic acid (0.142 g, 0.33 mmol) in dimethylformamide (2 ml), the mixture was stirred at ambient temperature for 3.25 hours and allowed to stand at ambient temperature for 18 hours, then it was added dropwise to water (10 ml). The mixture was stirred at ambient temperature for 30 minutes, then the resulting solid was collected by filtration, washed with water (5 ml) and hexane (10 ml), and dried in vacuo to give 1-[3-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]-3-phenylpyrrolidine-2,5-dione (0.097 g) as an off-white solid, 250 MHz 1H-nmr (d6-DMSO) δ (ppm): 3.0 (m, 1H) (ring CH), 3.4 (m partially obscured by water peak, 1H) (ring CH), 4.4–4.55 (m, 3H) (ArCH2—+ring CH), 7.25–7.65 (m, 9H) (9×ArH), 7.9–8.15 (m, 3H) (3×ArH), 8.4 (d, 1H) (ArH), 12.8 (s, 1H) (CONH); m/z (M+H)+. 410, 94.2% purity.

reactant | diisopropylethylamine | 0.726 mmol, 0.095 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-[3-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]-2-phenylsuccinamic acid | O=C1NN=C(C2=CC=CC=C12)CC=1C=C(C=CC1)NC(CC(C(=O)O)C1=CC=CC=C1)=O | C25H21N3O4
reactant | N-[3-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]-3-phenylsuccinamic acid | 0.33 mmol, 0.142 g | O=C1NN=C(C2=CC=CC=C12)CC=1C=C(C=CC1)NC(C(CC(=O)O)C1=CC=CC=C1)=O | C25H21N3O4
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-[3-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]-3-phenylpyrrolidine-2,5-dione | 0.097 g | O=C1NN=C(C2=CC=CC=C12)CC=1C=C(C=CC1)N1C(C(CC1=O)C1=CC=CC=C1)=O | C25H19N3O3
